US07745475B2
3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(piperidin-1-ylcarbonyl)phenoxy]benzamide
DIPEA (0.36 mL, 1.95 mmol) was added to a suspension of 4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoic acid (200 mg, 0.49 mmol), HATU (390 mg, 1.02 mmol) and piperidine (0.19 mL, 1.95 mmol) in DMF (3 mL) and the mixture stirred at, ambient temperature for 24 hours. The solvent was evaporated. Water (30 mL) was added and the mixture extracted with ethyl acetate (3×15 mL). The combined organic extracts were washed with brine (30 mL), dried, (MgSO4), and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 0-20% methanol in ethyl acetate, to give the desired compound (167 mg).

reactant | DIPEA | 1.95 mmol, 0.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoic acid | 0.49 mmol, 200 mg | OC[C@@H](OC=1C=C(OC2=CC=C(C(=O)O)C=C2)C=C(C1)C(=O)NC1=NN(C=C1)C)C | C21H21N3O6
reactant | HATU | 1.02 mmol, 390 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | piperidine | 1.95 mmol, 0.19 mL | N1CCCCC1 | C5H11N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(piperidin-1-ylcarbonyl)phenoxy]benzamide | 167 mg | OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC=C(C=C1)C(=O)N1CCCCC1)C | C26H30N4O5
